US07645771B2
At 0° C., to a stirred solution of phosgen (0.25 mL, 2.0 in toluene) was added a solution of 2-methyl-1-{8-[2-(4-phenylpiperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]-oct-3-yl}-1H-benzimidazole (71 mg, 0.17 mmol) in methylene chloride and triethylamine (excess). The mixture was stirred for 30 minutes at 0° C. and further one hour at room temperature. Nitrogene gas was then introduced to remove the excess phosgen. To this mixture was added excess dimethylamine and the resulting mixture was stirred overnight at ambient temperature. After being diluted with methylene chloride, the organic phase was washed with brine, dried over anhydrous sodium sulfate and purified by flash chromatography. N,N-dimethyl-4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidine-1-carboxamid was obtained as foam (52 mg, 63%). 1H NMR (400 MHz, CDCl3) δ 7.66 (d, J=7.3 Hz, 1H), 7.37-7.34 (m, 2H), 7.31-7.29 (m, 3H), 7.23-7.12 (m, 3H), 4.61 (br, 1H), 3.44-3.38 (m, 2H), 3.25 (br, 2H), 3.12-3.06 (m, 2H), 2.80 (s, 6H), 2.58 (s, 3H), 2.38-2.36 (m, 2H), 2.19-2.15 (m, 2H), 1.93-1.81 (m, 10H), 1.61 (d, J=7.3 Hz, 2H). HRMS m/z (M+H)+ calcd: 500.3389, obsd: 500.3386.

reactant | phosgen | 0.25 mL | C(=O)(Cl)Cl | CCl2O
reactant | 2-methyl-1-{8-[2-(4-phenylpiperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]-oct-3-yl}-1H-benzimidazole | 0.17 mmol, 71 mg | CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCNCC3)C3=CC=CC=C3)C=CC=C2 | C28H36N4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N,N-dimethyl-4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidine-1-carboxamid | CN(C(=O)N1CCC(CC1)(C1=CC=CC=C1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C)C | C31H41N5O
